US09120749B2
Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)methanone dihydrochloride
Following general procedure D, (6-bromo-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone (7.3 g, 16.7 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (5.6 g, 20 mol) to obtain the desired product which was dissolved methanol and treated with excess 1 N aq. HCl. During removal of the methanol via rotary evaporation a precipitate appeared which was filtered to obtain the desired product (5.6 g, 64% over 2 steps) as a yellow solid: 1H NMR (300 MHz, MeOD) δ 9.46 (s, 1H), 8.21 (dd, J=8.8, 1.9 Hz, 1H), 8.01 (d, J=8.8 Hz, 1H), 7.89 (s, 1H), 7.57 (d, J=9 Hz, 2H), 7.46 (d, J=9 Hz, 2H), 7.23 (s, 2H), 3.40 (m, 2H), 3.22 (m, 2H), 2.98 (s, 7H), 2.90 (t, J=4.8 Hz, 1H), 1.22 (m, 4H); ESI MS m/z 520 [C29H27Cl2N3O2+H]+; HPLC 99.1% (AUC), tR=10.54 min.

reactant | (6-bromo-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 16.7 mmol, 7.3 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CCN(C)C | C23H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 20 mol, 5.6 g | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)methanone dihydrochloride | Cl.Cl.C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)CCN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | InChI=1S/C29H27Cl2N3O2.2ClH/c1-34(2)12-11-17-3-8-21(9-4-17)33-27-22-13-19(20-14-24(30)29(36)25(31)15-20)7-10-26(22)32-16-23(27)28(35)18-5-6-18;;/h3-4,7-10,13-16,18,36H,5-6,11-12H2,1-2H3,(H,32,33);2*1H
